.title kicad schematic

.include MC1413a.sub
* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ port
xu7 net-_u1-pad6_ net-_u1-pad9_ net-_u1-pad11_ net-_u1-pad8_ MC1413a
xu8 net-_u1-pad7_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad8_ MC1413a
xu6 net-_u1-pad5_ net-_u1-pad9_ net-_u1-pad12_ net-_u1-pad8_ MC1413a
xu5 net-_u1-pad4_ net-_u1-pad9_ net-_u1-pad13_ net-_u1-pad8_ MC1413a
xu3 net-_u1-pad2_ net-_u1-pad9_ net-_u1-pad15_ net-_u1-pad8_ MC1413a
xu4 net-_u1-pad3_ net-_u1-pad9_ net-_u1-pad14_ net-_u1-pad8_ MC1413a
xu2 net-_u1-pad1_ net-_u1-pad9_ net-_u1-pad16_ net-_u1-pad8_ MC1413a
.tran 1e-06 1e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
