.title kicad schematic

.include DI_S2M.lib
.include NPN.lib
* u1 net-_d1-pad2_ net-_d2-pad2_ net-_d2-pad1_ net-_d1-pad1_ port
d2 net-_d2-pad1_ net-_d2-pad2_ DI_S2M
r3 net-_q1-pad3_ net-_d1-pad1_ 3.0k
d3 net-_d1-pad1_ net-_d2-pad1_ DI_S2M
q2 net-_d2-pad1_ net-_q1-pad3_ net-_d1-pad1_ Q2N2222
q1 net-_d2-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
r1 net-_d1-pad2_ net-_q1-pad2_ 2.7k
d1 net-_d1-pad1_ net-_d1-pad2_ DI_S2M
r2 net-_q1-pad2_ net-_q1-pad3_ 5.0k
.tran 1e-06 4e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
