* Subcircuit MC1413a
.subckt MC1413a net-_d1-pad2_ net-_d2-pad2_ net-_d2-pad1_ net-_d1-pad1_ 
.title kicad schematic
.include DI_S2M.lib
.include NPN.lib
d2 net-_d2-pad1_ net-_d2-pad2_ DI_S2M
r3 net-_q1-pad3_ net-_d1-pad1_ 3.0k
d3 net-_d1-pad1_ net-_d2-pad1_ DI_S2M
q2 net-_d2-pad1_ net-_q1-pad3_ net-_d1-pad1_ Q2N2222
q1 net-_d2-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
r1 net-_d1-pad2_ net-_q1-pad2_ 2.7k
d1 net-_d1-pad1_ net-_d1-pad2_ DI_S2M
r2 net-_q1-pad2_ net-_q1-pad3_ 5.0k
* Control Statements

.ends MC1413a